US08877759B2
Hydroxylamine (459.6 μL of 50% w/v, 6.958 mmol) was added to a stirred solution of tert-butyl N-[2-fluoro-1-(4-formylphenyl)ethyl]carbamate (930 mg, 3.479 mmol) in ethanol (100 mL) and the reaction mixture stirred at ambient temperature for 4 hours. The reaction mixture was concentrated in vacuo and the residue taken up in water and extracted with ethyl acetate (×3). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give tert-butyl(2-fluoro-1-(4-((hydroxyimino)methyl)phenyl)ethyl)carbamate as an impure white solid (1058.2 mg, >100%). 1H NMR (400.0 MHz, DMSO-d6) 1.37 (s, 9H), 4.38-4.41 (m, 1H), 4.49-4.53 (m, 1H), 4.83-4.92 (m, 1H), 7.38 (d, 2H), 7.56 (d, 2H), 7.70 (d, 1H), 8.11 (d, 1H) and 11.24 (s, 1H) ppm; LC/MS m/z 227.0 [M+H]+.

reactant | Hydroxylamine | 6.958 mmol, 459.6 μL | NO | H3NO
reactant | tert-butyl N-[2-fluoro-1-(4-formylphenyl)ethyl]carbamate | 3.479 mmol, 930 mg | FCC(C1=CC=C(C=C1)C=O)NC(OC(C)(C)C)=O | C14H18FNO3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | tert-butyl(2-fluoro-1-(4-((hydroxyimino)methyl)phenyl)ethyl)carbamate | 1058.2 mg, >100% | C(C)(C)(C)OC(NC(CF)C1=CC=C(C=C1)C=NO)=O | C14H19FN2O3
